US04496569
A mixture of 7.0 g of 1-chloro-4-cyanoisoquinoline, 4.3 g of ammonium chloride, 5.3 g of sodium azide and 100 ml of dimethylformamide was heated at 120° C. for 16 hours. The mixture was poured into 600 ml of water and acidified to a pH of 2 with hydrochloric acid. The cream colored precipitate which formed was separated by filtration and dried and then recrystallized from dimethylsulfoxide to give 5-(1H-tetrazol-5-yl)tetrazolo[5,1-a[isoquinoline hemihydrate melting at about 235°-250° C. decomposition.

reactant | 1-chloro-4-cyanoisoquinoline | 7.0 g | ClC1=NC=C(C2=CC=CC=C12)C#N | C10H5ClN2
reactant | ammonium chloride | 4.3 g | [Cl-].[NH4+]
reactant | sodium azide | 5.3 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 600 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | isoquinoline hemihydrate | O.C1=NC=CC2=CC=CC=C12.C1=NC=CC2=CC=CC=C12 | InChI=1S/2C9H7N.H2O/c2*1-2-4-9-7-10-6-5-8(9)3-1;/h2*1-7H;1H2
